US07842696B2
HOBt (45 mg, 0.33 mmol) and DIPEA (137.5 mg, 1.06 mmol) were added to a stirred solution of 5-phenyl-1H-pyrazole-3-carboxylic acid hydrochloride (50 mg, 0.22 mmol) in DMF (1.0 mL). The reaction mass was cooled to 10° C. and EDCI.HCl (64 mg, 0.33 mmol) was added, followed by the addition of 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone (as TFA salt) (125 mg, 0.29 mmol). The resulting mixture was stirred at room temperature overnight. The mixture was then diluted with water and the resulting precipitate was filtered and dried in vacuo to afford 5-phenyl-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide as a solid product in 62% yield, LC-MS purity: 99.127%, 1H NMR (DMSO): δ 13.6 (s, 1H), 8.1 (s, 1H), 7.7 (m, 5H), 7.4 (m, 4H), 7.1 (s, 1H), 4.1 (m, 2H), 3.6 (m, 4H), 3.4 (m, 2H), 3.2 (m, 2H).

reactant | HOBt | 0.33 mmol, 45 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.06 mmol, 137.5 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 5-phenyl-1H-pyrazole-3-carboxylic acid hydrochloride | 0.22 mmol, 50 mg | Cl.C1(=CC=CC=C1)C1=CC(=NN1)C(=O)O
reactant | EDCI.HCl | 0.33 mmol, 64 mg | CCN=C=NCCCN(C)C.Cl
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone | 0.29 mmol, 125 mg | NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C14H16F3N3O2
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-phenyl-1H-pyrazole-3-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 62% yield | O=C(CNC(=O)C1=NNC(=C1)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C24H22F3N5O3
